US06194406B1
Combine 2-(2-(t-butyldimethylsilyloxy)ethyl)-2-allyl-3-phenylpropionitrile (1.19 g) and dichloromethane (25 mL) and water (25 mL). Add tetrabutyl ammonium bromide (0.01 g) and acetic acid (8.0 mL). Add potassium permanganate (2.24 g) portionwise over 2 hours. After 18 hours, add sodium sulfite to dissolve the precipitated manganese dioxide. Separate the layers and adjust the pH of the aqueous layer to about 2 using aqueous 1 M hydrochloric acid solution. Extract the aqueous layer three times with dichloromethane. Dry the combined organic layers over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 1/1 ethyl acetate/hexane to give 4-cyano-4-phenylmethyl-δ-valerolactone.

reactant | 2-(2-(t-butyldimethylsilyloxy)ethyl)-2-allyl-3-phenylpropionitrile | 1.19 g | [Si](C)(C)(C(C)(C)C)OCCC(C#N)(CC1=CC=CC=C1)CC=C | C20H31NOSi
reactant | dichloromethane | 25 mL | ClCCl | CH2Cl2
reactant | potassium permanganate | 2.24 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
reactant | acetic acid | 8.0 mL | C(C)(=O)O | C2H4O2
catalyst | tetrabutyl ammonium bromide | 0.01 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | 25 mL | O | H2O
product | 4-cyano-4-phenylmethyl-δ-valerolactone | C(#N)C1(CCC(=O)OC1)CC1=CC=CC=C1 | C13H13NO2
